US05500427
a) Ethyl 3-[N-(2'-cyanobiphenyl-4-yl)methylamino]-1-methylpyrazole-4-carboxylate
To a mixture of ethyl 3-amino-1-methylpyrazole-4-carboxylate (P. Schmidt et al. Hel. Chim. Acta., 1959, 41, 349.) (2.30 g) and potassium carbonate in N,N-dimethylformamide (70 ml), was added portionwise 4-bromomethyl-2'-cyanobiphenyl (4.81 g). The solvent was distilled under reduced pressure. To the residue was added ice-water and an aqueous solution of potassium carbonate. The mixture was extracted with ethyl acetate. The extract was washed with water and a saturated aqueous saline solution, which was dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give crude crystals, which were recrystallization from ethyl acetate-isopropylether to afford the title compound as white crystals (3.7 g, 76%), m.p. 151°-152° C.

reactant | ethyl 3-amino-1-methylpyrazole-4-carboxylate | 2.30 g | NC1=NN(C=C1C(=O)OCC)C | C7H11N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromomethyl-2'-cyanobiphenyl | 4.81 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-[N-(2'-cyanobiphenyl-4-yl)methylamino]-1-methylpyrazole-4-carboxylate | 3.7 g, 76% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=NN(C=C1C(=O)OCC)C | C21H20N4O2
